Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Wrist Pain and SOB
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo male with a pmh of HTN and ETOH abuse 
___ EOTH abuse who presents to the ED with altered mental status 
and pain in his L wrist, R hand, head, neck and faceOn initial 
evaluation patient was obviously intoxicated and stated he was 
assaulted by multiple assailants (time unknown). He denied any 
LOC during this event.  He also denies any emesis. He does 
endorse pain in his left lateral neck, face, right hand, left 
wrist after the assault. On re-assessment in the ED, the patient 
appeared more sober and lucid stated that he was walking behind 
loading docks when a group of 3 men demanded his winter coat on 
___. When he declined to acquiesce to their demand, he was 
assaulted, hit in the head with a pipe, face ground into the 
cement, and was "stomped on" several times.  He was helped to 
the ED by 2 strangers.  He notes that his last drink was 
yesterday (did not know timing), but insistent that while he can 
drink to excess, he often goes a week or more at a time between 
drinks. He denies sensation of withdrawals and states he has no 
itching of skin or signs hallucinations.

The patient also endorsed several days of coughing productive of 
green sputum. He also reports dyspnea over this period time as 
well. He denies known aspiration events. He denies fevers or 
chills, chest pain, nausea, vomit, diarrhea, abdominal pain, 
numbness, or weakness.

In the ED, initial VS were 97.3 85 127/70 15 97% RA. Physical 
exam was significant for facial ulcerations consistent with the 
described assault, and significant pain/swelling in the L wrist. 
 X-ray showed an impacted fracture of the distal radius with 
mild medial and volar displacement of the distal fracture 
fragment with soft tissue swelling. Head CT showed no signs 
intracranial hemorrhage. C-spine was cleared. CT torso showed 
scattered consolidations throughout the bilateral lungs, 
concerning for
multifocal pneumonia.  X-ray of the hips and R hand was 
unremarkable.  Orthopedics attempted external reduction and 
wrist was splinted with plan for surgery as outpatient. 
Labs showed Negative UA, UTox screen positive for Benzos, 
opiates, cocaine, ETOH 179, BNP WNL WBC 7.7, H/H 11.1/36.7. Due 
to concern for multifocal PNA patient was started on clindamycin 
and lecvofloxacin.

ED Orders:
IVF 1000 mL NS 1000 mL   
IV Morphine Sulfate 2 mg x2
IV Fentanyl Citrate 50 mcg x3
IV/IM Lorazepam 1 mgx3
PO/NG Gabapentin 1200
PO/NG TraZODone 50 mg
IV Levofloxacin 750 mg 
IV Clindamycin 600 mg 

Given concern for multifocal pneumonia and recent assault with 
very poor follow up, will admit to medicine for help with 
disposition and continued medical management. Transfer VS were  
. Social work was consulted for placement and orthopedics was 
consulted for recommendations regarding L wrist fracture. 

On arrival to the floor, patient reports L wrist pain and a 
headache, requesting IV pain medications. 

 
Past Medical History:
HTN
ETOH Abuse
Hereditary Neuropathy Type I
?Bipolar
Shoulder repair
Knee total reconstruction
Bells Palsy
 
Social History:
___
Family History:
Older brother - testicular cancer
___ hereditary neuropathy type 1
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS - 97.8  147/74  110 18 98RA
GENERAL: Well nourished male with face ulcerations, with 
waxing/waning attention, A/Ox3
HEENT: EOMI, L eyelid drooping (chronic per patient), slow 
pupillary response to light, anicteric sclera, pink conjunctiva, 
MMM, poor dentition. Ulceration on nose/forehead with honey 
crusted appearance.  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
CHEST: L chest no bruising, tender to palpation
LUNG: productive cough, mild coarse breath sounds. No wheezes, 
rales, rhonchi, breathing comfortably without use of accessory 
muscles  
ABDOMEN: nondistended, +BS, tenderness in left lower quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, though droopy L eyelid.  Decreased 
sensation on plantar and dorsum surface of feet ___ (chronic) to 
light touch, Babinski downward. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
===========================
VS - 97.7  147/80  90  18  98%
GENERAL: Well nourished male with face ulcerations, A/Ox3
HEENT: EOMI, L eyelid drooping (chronic per patient), slow 
pupillary response to light, anicteric sclera, pink conjunctiva, 
MMM, poor dentition. Ulceration on nose/forehead with honey 
crusted appearance.  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
CHEST: L chest no bruising, tender to palpation
LUNG: productive cough, mild wheezing bilatrally. no rales, 
rhonchi, breathing comfortably without use of accessory muscles  

ABDOMEN: non-distended, +BS, tenderness in left lower quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
  L wrist: in splint. Warm, pulses 2+, sensation intact but per 
pt decreased on digits 4,5.
  R Knee: pain with passive and active motion. Full ROM, 
negative posterior/anterior drawer
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, though droopy L eyelid.  Decreased 
sensation on plantar and dorsum surface of feet ___ (chronic) to 
light touch, Babinski downward. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:25AM BLOOD WBC-7.7 RBC-4.15* Hgb-11.1* Hct-36.7* 
MCV-88 MCH-26.7 MCHC-30.2* RDW-19.8* RDWSD-63.7* Plt ___
___ 12:25AM BLOOD Glucose-93 UreaN-8 Creat-0.7 Na-141 K-4.2 
Cl-103 HCO3-22 AnGap-20
___ 12:25AM BLOOD ALT-14 AST-23 AlkPhos-72 TotBili-0.1
___ 12:25AM BLOOD Albumin-4.0
___ 12:25AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-POS Tricycl-NEG
___ 12:34AM BLOOD Lactate-2.6*

PERTINIENT FINDINGS:
=====================

L Wrist 3 Views ___:
An impacted fracture of the distal radius with mild medial and 
volar displacement of the distal fracture fragment is 
demonstrated with surrounding soft tissue swelling.  No 
dislocation is identified.  Mild degenerative changes are seen 
involving the first CMC and triscaphe joints.  No concerning 
lytic or sclerotic osseous abnormalities detected.  No 
radiopaque foreign body or concerning soft tissue calcification 
is present. 
IMPRESSION:  
Impacted left distal radial fracture with medial and volar 
displacement. 

R Hand ___: 
No acute fracture or dislocation. 

CT head ___:
No acute intracranial abnormality.  Specifically, no acute 
hemorrhage or fracture. 

CT C Spine ___:
No evidence of fracture, malalignment, or prevertebral soft 
tissue 
abnormality.  Extremely limited soft tissue contrast resolution. 
 If there is a concern for spinal canal compromise, MR imaging 
may be helpful. 
**Consider MR imaging if there is ongoing concern about spinal 
canal compromise. 

CT Torso ___:
1. No acute sequela of trauma. 
2. Scattered consolidations throughout the bilateral lungs, 
concerning for multifocal pneumonia. 
3. Diverticulosis without evidence of acute diverticulitis. 

CT Upper extremity ___:
Impaction fracture of the left radius, with 10 mm of 
foreshortening an approximately 3 mm of volar displacement. No 
other fracture identified. The carpal bones appear normally 
aligned. 

CT Sinus/Maxilla ___:
No sequela of acute trauma. Mild mucosal thickening of the 
bilateral 
maxillary sinuses and ethmoid air cells. 

L Wrist X-ray 3 view ___:
Foreshortened, angulated fracture of the left radius, unchanged 
in alignment.

Hip X-ray ___:
No acute fracture or dislocation.

L Wrist X-ray ___
Unchanged foreshortening of a distal left radial fracture.  
Minimal 
improvement in the known volar displacement. 

R Knee X-ray ___:
Mild-to-moderate degenerative changes. Chondrocalcinosis in the 
lateral compartment. No fracture or dislocation. 

Panorex Xray ___:
Read Pending at time of discharge

DISCHARGE LABS:
================
___ 06:45AM BLOOD WBC-8.2 RBC-4.16* Hgb-11.1* Hct-36.5* 
MCV-88 MCH-26.7 MCHC-30.4* RDW-19.5* RDWSD-62.7* Plt ___
___ 06:45AM BLOOD Glucose-128* UreaN-10 Creat-0.7 Na-136 
K-5.0 Cl-96 HCO3-31 AnGap-14
___ 06:45AM BLOOD Calcium-9.6 Phos-3.7 Mg-1.___ with history of HTN, hereditary peripheral neuropathy type 
1, ETOH abuse who presents with L wrist fracture and multifocal 
PNA concerning for CAP vs aspiration PNA.

#PNA: Patient had a 1 week history of episodes of shortness of 
breath and increased thick green sputum.  He was breathing well 
on RA, and not noted to have leukocytosis or fevers on 
admission.  However, given patients altered mental status 
patient underwent CT Torso in addition to other imaging 
(discussed below) and CT chest showed scattered consolidations 
throughout the bilateral lungs, concerning for multifocal 
pneumonia. The patient was started of Levofloxacin and 
Clindamycin in the ED. Etiology likely CAP vs aspiration pna 
given history of EOTH abuse.  Patient was started on Ceftriaxone 
1g IV Q12, Flagyl 500mg IV Q8H, and Azithromycin 500mg x1 day 
and 250x4 days as well as guifenasin/dextromethoraphan .  
Patient was quickly transitioned to Cefpedoxime, Flagyl and 
azithromycin with good effect, reduced sputum and no episodes of 
fevers or shortness of breath. Of note, patient did have 
occasional wheezing which improved with duonebs, though patient 
has not had documented history of COPD, asthma or smoking.   

#L Wrist Fracture: Presented with significant L wrist pain.  
This was a closed injury and the patient was deemed 
neurovascularly intact. X-ray showed an impacted fracture of the 
distal radius with mild medial and volar displacement of the 
distal fracture fragment is demonstrated with surrounding soft 
tissue swelling.  No dislocation is identified.  Mild 
degenerative changes are seen involving the first CMC and 
triscaphe joints.  Patient underwent 2x hematoma blocks with 
10cc lidocaine performed dorsally from Orthopedics. Initial 
reduction attempt performed after gravity-hung finger trap, and 
sugar tong splint. Post-reduction film without change in wrist 
anatomy. ___ reduction performed with dorsal/volar splint and 
hanging weights, again with post-reduction films without change. 
After two unsuccessful reduction attempts with hematoma block, 
and final radiology reads, the radial fracture appeared 
consistent with sub-acute chronicity. Patient was placed in 
splint with plan for further evaluation.  The patient noted the 
wrist remained painful with episode of numbness/decreased 
sensation in ring/pinky, but no distal pain, no sign of loss of 
perfusion. This parasthesia was examined by orthopedics who felt 
the radial nerve distribution distally may have been traumatic 
neurapraxia as all motor modalities intact. Pain was controlled 
with IV dilaudid and morphine, and later transitioned to PO 
morphine and oxycodone with reasonable control. Patient was 
advised to stay in splint with plan to follow up in hand clinic 
for further evaluation. 

#Right Knee: Patient noted right knee pain. Was noted to have 
pain with weight bearing and passive ROM. Increased varus 
laxity.  R Knee showed no fracture only degenerative changes.  
MRI was attempted but patient was unable to tolerate due to leg 
shaking and restlessness.  Patient was made an appointment with 
___ orthopedics for follow up evaluation on ___ for ongoing 
follow up and discharged to rehabilitation with R knee brace.

#AMS: Patient initially presented on the floor with 
waxing/waning attention and somnolence during conversation.  He 
was appropriate otherwise in conversation and oriented x3.  
After 1 day, mentation returned to baseline.  Upon reflection, 
likely due to combination of narcotic medications received in ED 
and lack of sleep. CT head showed no acute intracranial process. 
 Currently, not unreasonable to attribute to lack of sleep (pool 
side in ED) and recent meds.  
- Continue to monitor for status change in mentation, if 
worsening or persists, will consider additional head imaging and 
consult neurology

#Headaches: Describes intermittent headaches, that are intense, 
bilateral, causing blurry vision and nausea.  Reports no 
previous history of headaches, only started after assault. 
Appear consistent with concussion like symptoms following head 
trauma. Self resolving.

#ETOH Abuse: History of alcohol abuse. No sign of active 
withdrawals on admission. Started on CIWA diazepam protocol, but 
was negative (<10) over 48 hours before discontinued.  He 
received Thiamine 100mg PO daily, Folic acid 1mg daily, and 
multivitamin. 

#Facial ulceration: Occurred during trauma. Had gold/honey 
crusting concerning for superficial staph infection, now 
improving. Used Mupirocin topical PRN with good effect. 

#L Molar Pain: patient reported on day of discharge discomfort 
with eating hard foods in L molar. No signs of jaw fracture, or 
pain at TMJ.  He underwent panorex imaging (final read pending). 
Patient was advised to seek outside follow up.

#HTN: Normotensive. Continue home meds, amlodipine and 
lisinopril.

#Neuropathy: Per patient longstanding history of familial 
hereditary neuropathy type I, treated with gabapentin and 
tramadol. Continued home doses. 

#Anxiety/Psych: Recent diagnosis of bipolar and long standing 
history of anxiety. Continued home doses of Depakote and 
citalopram and ambien. Held lorazepam while inpatient, restarted 
once discharged. 

#Gout: Stable, on allopurinol at home.

#Disposition: Patient is homeless living in shelter with history 
of assaults.  Given his current impaired physical state, he was 
deemed appropriate for physical rehabilitation first.

TRANSITIONAL ISSUES:
=====================
- L Wrist Fracture, splinted, requiring hand surgery clinic 
follow up in ___ days following discharge
- R knee pain, weakness. Will ultimately need MRI imaging and 
follow up with orthopedics at ___. Scheduled for Ortho ___ ___
- Patient had L molar pain.  Able to eat with some discomfort. 
Panorex imaging of teeth taken (read pending at time of 
discharge), will require outpatient dentistry evaluation.
- Multifocal Pneumonia, Cefpedoxime 200mg PO Q12h, Flagyl 500mg 
PO Q8h, (last day ___.
- History of ETOH abuse, patient has expressed ongoing interest 
in remaining sober.
- Patient was recently assaulted and had medications stolen. He 
will ultimately need refills of lost medications.
___ stay should NOT exceed 30 days.**

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Citalopram 10 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Divalproex (DELayed Release) 250 mg PO BID 
6. Zolpidem Tartrate 10 mg PO QHS 
7. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
8. TraMADOL (Ultram) 50 mg PO Q6H:PRN leg restlessness 
9. Gabapentin 1200 mg PO QID 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Citalopram 10 mg PO DAILY 
3. Divalproex (DELayed Release) 250 mg PO BID 
4. Gabapentin 1200 mg PO QID 
5. Lisinopril 40 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. TraMADOL (Ultram) 50 mg PO Q6H:PRN leg restlessness 
RX *tramadol 50 mg 1 tablet(s) by mouth Every 6 hours Disp #*20 
Tablet Refills:*0
8. Zolpidem Tartrate 10 mg PO QHS 
9. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
10. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
RX *oxycodone 10 mg 1 tablet(s) by mouth every 6 hours Disp #*20 
Tablet Refills:*0
11. Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine 30 mg 1 capsule(s) by mouth Every 12 hours Disp 
#*10 Capsule Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- L wrist fracture
- Community Acquired Pneumonia

Secondary:
- Hereditary peripheral neuropathy
- Hypertension
- ETOH abuse
- Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
pneumonia and a fracture of your left wrist.  On admission, your 
blood alcohol levels were elevated. You received a CT image of 
your head, neck, and chest which showed no new fractures, but 
did revealed signs of a lung infection.  X-rays of your hands 
and right knee, showed a left wrist fracture.  You were placed 
in a splint by orthopedic surgery and started on antibiotics for 
your lung infection. You were evaluated by physical and 
occupational therapy who recommended you go to a rehabilitation 
___ your unsteadiness and weakness. Once your pain was 
better controlled, you were discharged with a plan to complete 
the course of oral antibiotics (last day ___ and follow up 
with orthopedic surgery specialty clinic to further evaluate 
your left wrist.  You were also discharged with plan to continue 
physical rehabilitation at ___. Please note, the 
antibiotic metronidazole, should not be taken with alcohol as it 
can cause significant upset stomach.

It was a pleasure taking care of you during your stay at ___. 
We wish you the very best in the future and your ongoing 
recovery. If you have any questions about the care you received, 
please do not hesitate to ask.

Sincerely
Your Inpatient ___ Care Team 
 
Followup Instructions:
___